US06919322B2
A solution of iodobenzene (1 mmole) in DMF (5 mL) was treated with trimethylsilylacetylene (2 mmole), Pd(PPh3)2Cl2 (0.035 mmole), CuI (0.08 mmole) and triethylamine (4 mmole), and the resulting reaction mixture was stirred under nitrogen at room temperature for 5 h. Evaporation followed by chromatography gave 1-trimethylsilyl-2-phenylacetylene as a solid.

reactant | iodobenzene | 1 mmole | IC1=CC=CC=C1 | C6H5I
reactant | trimethylsilylacetylene | 2 mmole | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 4 mmole | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.035 mmole | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.08 mmole | [Cu]I
product | 1-trimethylsilyl-2-phenylacetylene | C[Si](C#CC1=CC=CC=C1)(C)C | C11H14Si
